US09388189B2
4-Methoxy-N-(2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)benzenesulfonamide
2-Methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-amine (200 mg, 0.8 mmol) was treated with 4-methoxybenzene-1-sulfonyl chloride (331 mg, 1.6 mmol) according to the method of Preparation 15b to give 270 mg (77% yield) of the title compound as an oil. Purity 96%.

reactant | 2-Methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-amine | 0.8 mmol, 200 mg | COC1=NC=C(C=C1N)B1OC(C(O1)(C)C)(C)C | C12H19BN2O3
reactant | 4-methoxybenzene-1-sulfonyl chloride | 1.6 mmol, 331 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | 4-Methoxy-N-(2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)benzenesulfonamide | 270 mg, 77% yield | COC1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OC | C19H25BN2O6S
